US05232923
A mixture of 5 g of ethyl 3,4-diacetoxyphenylpropionate and 3.5 g of n-butylamine was heated to 150° C. with stirring for 2 hours in an autoclave. After cooling, the reaction mixture was concentrated and the residue was purified by silica gel chromatography. A solvent mixture of chloroform:methanol=20:1 was used as eluent. Pure N-n-butyl-3,4-dihydroxyphenylpropionamide was obtained as colorless viscous oil. The yield was 5.45 g.

reactant | ethyl 3,4-diacetoxyphenylpropionate | 5 g | C(C)(=O)OC=1C=C(C=CC1OC(C)=O)C(C(=O)OCC)C | C15H18O6
reactant | n-butylamine | 3.5 g | C(CCC)N | C4H11N
product | N-n-butyl-3,4-dihydroxyphenylpropionamide | C(CCC)NC(C(C)C1=CC(=C(C=C1)O)O)=O | C13H19NO3
